US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
The preparation of N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide and 2-(azetidin-1-ylcarbonyl)-5-bromopyridine was described earlier.

reactant | N-(1-ethyl-1H-pyrazol-3-yl)-3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | C(C)N1N=C(C=C1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)O)=O | C16H21N3O4
reactant | 2-(azetidin-1-ylcarbonyl)-5-bromopyridine | N1(CCC1)C(=O)C1=NC=C(C=C1)Br | C9H9BrN2O
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)CC)C=C(C1)O[C@H](COC)C | C25H29N5O5
